US09079902B2
1-Methyl-N-(1,2,4-Thiadiazol-5-yl)-3-(3-(Trifluoromethoxy)Phenyl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using (3-(trifluoromethoxy)phenyl)boronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 1-methyl-N-(1,2,4-thiadiazol-5-yl)-3-(3-(trifluoromethoxy)phenyl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.89 (s, 3 H) 7.22 (d, J=8.25 Hz, 1 H) 7.54-7.58 (m, 3 H) 7.71 (d, J=8.02 Hz, 1 H) 7.87-7.92 (m, 3 H) 7.98 (s, 1 H). m/z (ESI) 454.0 (M+H)+.

reactant | (3-(trifluoromethoxy)phenyl)boronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 1-methyl-N-(1,2,4-thiadiazol-5-yl)-3-(3-(trifluoromethoxy)phenyl)-1H-indole-6-sulfonamide | CN1C=C(C2=CC=C(C=C12)S(=O)(=O)NC1=NC=NS1)C1=CC(=CC=C1)OC(F)(F)F | C18H13F3N4O3S2
